US07468371B2
5-bromo-2-(2-carboxyethyl)benzoic acid
A solution of 2-(2-carboxyethyl)benzoic acid (5 g, 25.8 mmol) in 71% nitric acid (20 mL) in an amber vial was treated with bromine (1.3 mL, 25.8 mmol). The vial was capped and heated to about 90° C. for about 20 hours. The reaction was cooled, poured into water and 1M hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water, dried (Na2SO4), filtered, and concentrated under vacuum. The residue was purified by flash chromatography on silica gel using dichloromethane/methanol (20:1) as eluent to provide the desired product. MS (ESI): m/z 271, 273 (M−H)−.

reactant | 2-(2-carboxyethyl)benzoic acid | 25.8 mmol, 5 g | C(=O)(O)CCC1=C(C(=O)O)C=CC=C1 | C10H10O4
reactant | bromine | 25.8 mmol, 1.3 mL | BrBr | Br2
reactant | water | O | H2O
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | nitric acid | 20 mL | [N+](=O)(O)[O-] | HNO3
product | 5-bromo-2-(2-carboxyethyl)benzoic acid | BrC=1C=CC(=C(C(=O)O)C1)CCC(=O)O | C10H9BrO4
